US08404144B2
Following the General Synthetic Procedure B, 4-vinylbenzylchloride is reacted with tetramethyl methanebisphosphonate to produce tetramethyl 4-vinylbenzyl-methanebisphosphonate that is then hydrolyzed to yield 4-vinylbenzyl-methanebisphosphonic acid.

reactant | 4-vinylbenzylchloride | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | tetramethyl methanebisphosphonate | C(P(OC)(=O)OC)P(OC)(=O)OC | C5H14O6P2
product | tetramethyl 4-vinylbenzyl-methanebisphosphonate | C(=C)C1=CC=C(CC(P(OC)(=O)OC)P(OC)(=O)OC)C=C1 | C14H22O6P2
